US07074800B1
A solution of 4-chloro-6-methoxy-7(3-(pyrrolidin-1-yl)propoxy)quinazoline (61 mg, 0.19 mmol), (prepared as described for the starting material in Example 9), and 5-aminoindole (30 mg, 0.23 mmol) in isopropanol (2 ml) containing 6.2 N hydrogen chloride in isopropanol (33 μl) was heated at 80° C. for 6 hours. After cooling, the precipitate was filtered, washed with ether and dried under vacuum to give 4-(indol-5-ylamino)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline hydrochloride (80 mg, 72%).

reactant | 4-chloro-6-methoxy-7(3-(pyrrolidin-1-yl)propoxy)quinazoline | 0.19 mmol, 61 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 5-aminoindole | 0.23 mmol, 30 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | hydrogen chloride | 6.2 N | Cl | ClH
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 33 μl | C(C)(C)O | C3H8O
product | 4-(indol-5-ylamino)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline hydrochloride | 80 mg, 72% | Cl.N1C=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | InChI=1S/C24H27N5O2.ClH/c1-30-22-14-19-21(15-23(22)31-12-4-11-29-9-2-3-10-29)26-16-27-24(19)28-18-5-6-20-17(13-18)7-8-25-20;/h5-8,13-16,25H,2-4,9-12H2,1H3,(H,26,27,28);1H
